datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33][H:34]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:32][O:33][H:34],58.19944
[N:0]([H:1])([H:2])[H:3].[N:4]=[C:5]=[O:6]>>[H:1][N:4]=[C:5]=[O:6].[N:0]([H:2])[H:3],30.7106
[C:0](=[N:1][H:4])([H:2])[H:3].[H:5]>>[C:0]([N:1][H:4])([H:2])([H:3])[H:5],34.769
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:11](=[C:12]([H:14])[H:15])[H:13])[H:5],17.0707
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([S:2])([H:6])[C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13])([H:3])([H:4])[H:5],-6.56888
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],43.5136
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])[H:8])[H:7],-5.6484
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:18][C:17]([H:19])([H:20])[H:21],29.288
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:6],66.5674
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([H:14])([H:15])[H:16],9.6232
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]=[S:9])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])=[S:9],84.9352
[C:0]([H:1])[H:2].[c:3]1([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14]>>[C:0]([H:1])([H:2])([c:3]1[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14])[H:9],-5.330416
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:9])([H:7])[H:8],12.4265
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:13])[H:12].[O:21][H:22]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:12].[H:13][O:21][H:22],0.0
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[N:8]([H:9])[H:10]>>[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][N:8]([H:9])[H:10],25.48056
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:24])[H:12],63.0529
[C:0](#[C:1][C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])=[C:10]([C:11]([H:25])([H:26])[H:27])[C:12]#[C:13][H:28])([H:20])[H:21])[H:19])[H:18])[H:14]>>[C:0](#[C:1][C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:10]1([C:11]([H:25])([H:26])[H:27])[C:12]#[C:13][H:28])[H:14],117.278
